US06555577B1
Bu4NBr (2.0 g, 6.3 mmol), K2CO3 (7.8 g, 56.7 mmol), Pd(Oac)2 (250 mg, 1.1 mmol) and styrene (20 mL, 175 mmol) were stirred for 5 min under nitrogen. To the mixture was added 3,5-dibromobenzaldehyde (5.0 g, 18.9 mmol) in dry DMF (5.0 mL), and the mixture was stirred at 65° C. for 16 h. The reaction mixture was diluted with ethyl acetate (20 mL) and the solution filtered. The filtrate was diluted with water and extracted with ethyl acetate (3×50 mL). The organic layers were combined, dried over MgSO4, and concentrated under vacuum. To the residue was added a mixture of toluene/petroleum ether (1:1) (50 mL) and 3,5-distyryl-benzaldehyde (4.95 g, 85%) was isolated by filtration.

reactant | K2CO3 | 56.7 mmol, 7.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | styrene | 175 mmol, 20 mL | C=CC1=CC=CC=C1 | C8H8
reactant | 3,5-dibromobenzaldehyde | 18.9 mmol, 5.0 g | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
catalyst | Bu4NBr | 6.3 mmol, 2.0 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Oac)2 | 1.1 mmol, 250 mg | CC(=O)O.CC(=O)O.[Pd]
product | 3,5-distyryl-benzaldehyde | 4.95 g, 85% | C(=CC1=CC=CC=C1)C=1C=C(C=O)C=C(C1)C=CC1=CC=CC=C1 | C23H18O
